US08182718B2
Hav=2-Methyl-1-propyl-1H-benzimidazole
To a flask were added 2.0 g 2-methylbenzimidazole and 40 ml tetrahydrofuran and the mixture was cooled to 10 C under nitrogen. 0.9 g Sodium hydride were added in portions and the reaction mixture was stirred for 20 minutes. 3.9 g 1-iodopropane were added and the mixture was heated to 45 C for 6 hours. The mixture was quenched slowly with 40 ml water, extracted twice with ethyl acetate and washed with water. Following solvent removal, the product was purified by silica gel chromatography using pure ethyl acetate to 5% methanol in ethyl acetate. A pale yellow oil was obtained.

reactant | 2-methylbenzimidazole | 2.0 g | CC=1NC2=C(N1)C=CC=C2 | C8H8N2
reactant | Sodium hydride | 0.9 g | [H-].[Na+]
reactant | 1-iodopropane | 3.9 g | ICCC | C3H7I
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 2-Methyl-1-propyl-1H-benzimidazole | CC1=NC2=C(N1CCC)C=CC=C2 | C11H14N2
